US09193693B2
Step 4. 2,3-Bis(4-phenylpiperidin-1-yl)quinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed a solution of ethyl 2,3-bis(4-phenylpiperidin-1-yl)quinoxaline-6-carboxylate (150 mg, 0.29 mmol, 1.00 equiv) in methanol (25 mL) and a solution of sodium hydroxide (58 mg, 1.45 mmol, 5.00 equiv) in water (2 mL). The resulting solution was stirred for 3 h at 50° C. in an oil bath. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 30 mL of water. The pH value of the aqueous solution was adjusted to 3 with 1N hydrochloric acid. The resulting solids were collected by filtration. The solid was dried in an oven under reduced pressure and purified by re-crystallization from methanol. This resulted in 80 mg (56%) of 2,3-bis(4-phenylpiperidin-1-yl)quinoxaline-6-carboxylic acid as a yellow solid.

reactant | ethyl 2,3-bis(4-phenylpiperidin-1-yl)quinoxaline-6-carboxylate | 0.29 mmol, 150 mg, 1.00 equiv | C1(=CC=CC=C1)C1CCN(CC1)C1=NC2=CC=C(C=C2N=C1N1CCC(CC1)C1=CC=CC=C1)C(=O)OCC | C33H36N4O2
reactant | sodium hydroxide | 1.45 mmol, 58 mg, 5.00 equiv | [OH-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 2,3-Bis(4-phenylpiperidin-1-yl)quinoxaline-6-carboxylic acid | C1(=CC=CC=C1)C1CCN(CC1)C1=NC2=CC=C(C=C2N=C1N1CCC(CC1)C1=CC=CC=C1)C(=O)O | C31H32N4O2
